US04581452
A solution of DCC (430 mg; 2.1 mmoles) in DMF (1 ml) was added dropwise to a solution of 1-benzyl-3-(2-hydroxycarbonyl-3,3,3-trifluoropropyl)urea (580 mg; 2.0 mmoles) obtained above in DMF (2 ml). One hour later, the precipitated solid was filtered off and washed with ethyl acetate. The solvents were evaporated under reduced pressure from the combined filtrates. The residue was purified by a column chromatography on silica gel (ethyl acetate:chloroform=1:1) to give 468 mg (yield: 86%) of 3-benzyl-5-trifluoromethyl-5,6-dihydrouracil.

reactant | DCC | 2.1 mmoles, 430 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 1-benzyl-3-(2-hydroxycarbonyl-3,3,3-trifluoropropyl)urea | 2.0 mmoles, 580 mg | C(C1=CC=CC=C1)NC(=O)NCC(C(F)(F)F)C(=O)O | C12H13F3N2O3
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 3-benzyl-5-trifluoromethyl-5,6-dihydrouracil | 468 mg, yield: 86% | C(C1=CC=CC=C1)N1C(NCC(C1=O)C(F)(F)F)=O | C12H11F3N2O2
